US04675186
3-(Dimethoxyacetyl)quinoline
3-Bromoquinoline (3.29 ml., 0.032 mol) was dissolved in 300 ml. THF and cooled to -78°. n-Butyllithium (13.6 ml. of 2.5M in hexane, 0.034 ml.) was added slowly and the mixture stirred 15 minutes at -75° to -78°. N-(Dimethoxyacetyl)morpholine (5.98 g., 0.032 mol) in 10 ml. THF was then added and stirring continued for 1.75 hours at the same temperature. The reaction was then quenched into 300 ml. saturated NH4Cl. The aqueous layer was separated and extracted 4×100 ml. ether. The organic layers were combined, dried over MgSO4O, stripped to yield title product, 7.0 g., bp 120°-123°/0.125 torr.

reactant | 3-Bromoquinoline | 0.032 mol, 3.29 ml | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | n-Butyllithium | 2.5M, 13.6 ml | C(CCC)[Li]
reactant | N-(Dimethoxyacetyl)morpholine | 0.032 mol, 5.98 g | COC(C(=O)N1CCOCC1)OC | C8H15NO4
solvent | THF | C1CCOC1 | C4H8O
product | 3-(Dimethoxyacetyl)quinoline | COC(C(=O)C=1C=NC2=CC=CC=C2C1)OC | C13H13NO3
